US06077963
Ethyl-3-hydroxy-3-(2-phenylethyl)hexanoate (II)
To a solution of diisopropylamine (32.2 ml, 230 mmol) in tetrahydrofuran (240 ml) at -58° is added 2.63 M n-butyl lithium in hexane (87.4 ml, 230 mmol) over one hour. Ethyl acetate (21.4 ml, 220 mmol) is then added and the reaction mixture stirred for 1 hour during which time the reaction mixture was cooled to -70°. 1-Phenyl-3-hexanone (I, 35.2 g, 200 mmol) is added slowly over 30 minutes and the reaction mixture stirred cold for 1 hour. The mixture was quenched with aqueous ammonium chloride (100 ml) and warmed to 20-25°. The mixture is then acidified with hydrochloric acid (4 M). The desired product is extracted into methyl t-butyl ether dried over magnesium sulfate and concentrated to give the title compound, TLC Rf =0.71 (ethyl acetate/hexane, 30/70); NNR (CDCl3) 7.28-7.12, 4.13, 3.60, 2.73-2.63, 2.50, 1.83-1.77, 1.58-1.53, 1.41-1.36, 1.24 and 0.93 δ; CMR (CDCl3) 173.0, 143.2, 128.5, 128.4, 128.3, 128.1, 125.8, 72.8, 60.6, 42.9, 41.3, 30.1, 17.0, 14.6 and 14.2 δ; MS (CI, ammonia) m/z (relative intensity) 282 (100), 264 (63), 247 (10), 194 (13), 172 (5), 159 (5).

reactant | diisopropylamine | 230 mmol, 32.2 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 2.63 M | C(CCC)[Li]
reactant | hexane | 230 mmol, 87.4 ml | CCCCCC | C6H14
reactant | Ethyl acetate | 220 mmol, 21.4 ml | C(C)(=O)OCC | C4H8O2
reactant | 1-Phenyl-3-hexanone | 200 mmol, 35.2 g | C1(=CC=CC=C1)CCC(CCC)=O | C12H16O
solvent | tetrahydrofuran | 240 ml | O1CCCC1 | C4H8O
product | Ethyl-3-hydroxy-3-(2-phenylethyl)hexanoate | C(C)OC(CC(CCC)(CCC1=CC=CC=C1)O)=O | C16H24O3
